US08211908B2
To a solution of 0.30 g of 6-chloro-4-(1,3-dioxolan-2-ylmethyl)pyrido(2,3-b)pyrazin-3(4H)-one and 78 mg of 1,2,4-triazole in 9 mL of N,N-dimethylformamide, 48 mg of 60% sodium hydride was added, and the mixture was stirred at 40 to 50° C. for 1 hour 30 minutes. Thereto was further added 78 mg of 1,2,4-triazole and 48 mg of 60% sodium hydride, and the mixture was stirred at 40 to 50° C. for 1 hour 30 minutes, and stirred at 60 to 70° C. for 20 minutes. The reaction mixture was charged with a mixed solution of ethyl acetate and water and neutralized with 2.0 mol/L hydrochloric acid, and the insoluble substance was filtered off. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The organic layer and the extract were combined, the resultant solution was washed sequentially with water and a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by flash silica gel column chromatography using gradient elution with hexane:ethyl acetate=80:20 to 30:70 and washed with diisopropyl ether to obtain 77 mg of 4-(1,3-dioxolan-2-ylmethyl)-6-(1H-1,2,4-triazole-1-yl)pyrido(2,3-b)pyrazin-3(4H)-one as a light red solid.

reactant | 6-chloro-4-(1,3-dioxolan-2-ylmethyl)pyrido(2,3-b)pyrazin-3(4H)-one | 0.30 g | ClC=1C=CC2=C(N(C(C=N2)=O)CC2OCCO2)N1 | C11H10ClN3O3
reactant | 1,2,4-triazole | 78 mg | N1N=CN=C1 | C2H3N3
reactant | sodium hydride | 48 mg | [H-].[Na+]
reactant | 1,2,4-triazole | 78 mg | N1N=CN=C1 | C2H3N3
reactant | sodium hydride | 48 mg | [H-].[Na+]
reactant | hydrochloric acid | 2.0 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 9 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(1,3-dioxolan-2-ylmethyl)-6-(1H-1,2,4-triazole-1-yl)pyrido(2,3-b)pyrazin-3(4H)-one | 77 mg | O1C(OCC1)CN1C2=C(N=CC1=O)C=CC(=N2)N2N=CN=C2 | C13H12N6O3
